US06727264B1
N-(3-{1-[5-(2-ETHOXYPHENOXY)-5-PHENYLPENTYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE:
Prepared by Procedure A and Scheme AN using 2-ethoxyphenol and N-{3-[1-(5-hydroxy-5-phenylpentyl)-4-piperidinyl]phenyl}-2-methylpropanamide: ESMS m/e: 529.2 (M+H)+.

reactant | 2-ethoxyphenol | C(C)OC1=C(C=CC=C1)O | C8H10O2
reactant | N-{3-[1-(5-hydroxy-5-phenylpentyl)-4-piperidinyl]phenyl}-2-methylpropanamide | OC(CCCCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O)C1=CC=CC=C1 | C26H36N2O2
product | N-(3-{1-[5-(2-ETHOXYPHENOXY)-5-PHENYLPENTYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE | C(C)OC1=C(OC(CCCCN2CCC(CC2)C=2C=C(C=CC2)NC(C(C)C)=O)C2=CC=CC=C2)C=CC=C1 | C34H44N2O3
